US08669234B2
{1-[2-(4′-Chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (409 mg, 0.893 mmol), bis(pinacolato)diboron (249 mg, 0.982 mmol), Pd2(dba)3 (20 mg, 0.0223 mmol), tris(cyclohexyl)phosphine (30 mg, 0.107 mmol) and potassium acetate (131 mg, 1.34 mmol) were suspended in dioxane (5 mL) and degassed with nitrogen for 4 min. The stirred suspension was heated to 80° C. for 14 hours before being cooled to RT, diluted with ethyl acetate (250 mL) and washed with water and brine. The organic phase was dried over magnesium sulfate and concentrated. The residue was purified by silica column chromatography (55% to 85% EtOAc/hexanes) to afford (2-Methyl-1-{2-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-ylcarbamoyl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester (491 mg, 100%).

reactant | {1-[2-(4′-Chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.893 mmol, 409 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C(NC=1C=C(C=CC1)C1=CC=C(C=C1)Cl)=O)=O | C24H28ClN3O4
reactant | bis(pinacolato)diboron | 0.982 mmol, 249 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tris(cyclohexyl)phosphine | 0.107 mmol, 30 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 1.34 mmol, 131 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.0223 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-Methyl-1-{2-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-ylcarbamoyl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester | 491 mg, 100% | COC(NC(C(C)C)C(=O)N1C(CCC1)C(NC=1C=C(C=CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C30H40BN3O6
